US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(oxetan-3-yl)quinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and oxetan-3-amine. MS obsd. (ESI+) [(M+H)+] 410, 1H NMR (400 MHz, CD3OD) δ ppm 7.97 (d, J=1.9 Hz, 1 H), 7.79 (d, J=1.9 Hz, 1 H), 7.72 (s, 1 H), 7.63 (t, J=3.8 Hz, 1 H), 7.44 (t, J=4.3 Hz, 2 H), 7.29 (d, J=2.1 Hz, 1 H), 5.72 (s, 1 H), 5.16 (t, J=3.3 Hz, 2 H), 5.12 (s, 2 H), 4.86 (m, 1 H), 4.72 (t, J=3.0 Hz, 2 H), 4.53 (brs, 2 H), 3.58 (t, J=2.3 Hz, 2 H), 2.43 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | oxetan-3-amine | O1CC(C1)N | C3H7NO
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(oxetan-3-yl)quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2COC2)C)=O | C22H23N3O3S
